US04044015
1-Benzyl-6-chloroimidazo[1,2-a]pyridinium bromide
A solution of 2.3 g. of 6-chloroimidazo[1,2-a]pyridine and 3.42 g. of α-bromotoluene in 40 ml. of dry acetonitrile is heated at reflux temperatures overnight. The solution is cooled and 35 ml. of diethyl ether added. The precipitated solids are collected and twice recrystallized from isopropanoldiethyl ether, 3.8 g., m.p. 193°-195° C.

reactant | 6-chloroimidazo[1,2-a]pyridine | ClC=1C=CC=2N(C1)C=CN2 | C7H5ClN2
reactant | α-bromotoluene | BrCC1=CC=CC=C1 | C7H7Br
reactant | acetonitrile | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-6-chloroimidazo[1,2-a]pyridinium bromide | [Br-].C(C1=CC=CC=C1)[N+]=1C=CN2C1C=CC(=C2)Cl | InChI=1S/C14H12ClN2.BrH/c15-13-6-7-14-16(8-9-17(14)11-13)10-12-4-2-1-3-5-12;/h1-9,11H,10H2;1H/q+1;/p-1
